US03992400
4-Chloro-α-(2,6-difluorophenyl)-o-toluidine
In the manner given in Preparation 11, 2-amino-5-chloro-2',6'-difluorobenzophenone is refluxed with potassium hydroxide in diethylene glycol to give 4-chloro-α-(2,6-difluorophenyl)-o-toluidene.

reactant | 2-amino-5-chloro-2',6'-difluorobenzophenone | NC1=C(C(=O)C2=C(C=CC=C2F)F)C=C(C=C1)Cl | C13H8ClF2NO
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 4-Chloro-α-(2,6-difluorophenyl)-o-toluidine | ClC=1C=C(C(N)=CC1)CC1=C(C=CC=C1F)F | C13H10ClF2N
